US04801585
1-(4-chlorophenylacetyl)-2-(1-pyrrolidinylmethyl) piperidine hydrochloride.
Prepared from 2-(1-pyrrolidinylmethyl)piperidine and 4-chlorophenylacetic acid.

reactant | 2-(1-pyrrolidinylmethyl)piperidine | N1(CCCC1)CC1NCCCC1 | C10H20N2
reactant | 4-chlorophenylacetic acid | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
product | 1-(4-chlorophenylacetyl)-2-(1-pyrrolidinylmethyl) piperidine hydrochloride | Cl.ClC1=CC=C(C=C1)CC(=O)N1C(CCCC1)CN1CCCC1 | InChI=1S/C18H25ClN2O.ClH/c19-16-8-6-15(7-9-16)13-18(22)21-12-2-1-5-17(21)14-20-10-3-4-11-20;/h6-9,17H,1-5,10-14H2;1H
